US07964607B2
6-{(3S,4S)-1-[(6-methoxypyridin-3-yl)methyl]-4-methylpyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 6-methoxynicotinaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.03 (d, J=2.1 Hz, 1H), 8.01 (s, 1H), 7.69 (dd, J=8.7, 2.5 Hz, 1H), 7.77 (d, J=8.7 Hz, 1H), 4.83-4.75 (m, 1H), 4.14-4.08 (m, 2H), 3.89 (s, 3H), 3.72-3.68 (m, 1H), 3.62-3.3.54 (m, 3H), 3.33 (t, J=8.3 Hz, 1H), 2.99 (d, J=9.9 Hz, 1H), 2.84-2.82 (m, 1H), 2.57-2.53 (m, 1H), 2.43-2.27 (m, 3H), 1.95-1.82 (m, 3H), 1.19 (d, J=6.6 Hz, 3H). MS: (M+H m/z 425.3).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | 6-methoxynicotinaldehyde | COC1=NC=C(C=O)C=C1 | C7H7NO2
product | 6-{(3S,4S)-1-[(6-methoxypyridin-3-yl)methyl]-4-methylpyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | COC1=CC=C(C=N1)CN1C[C@H]([C@@H](C1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C22H28N6O3
